datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[O:9][O:10][H:11]>>[C:0]([C:1]([O:2])([H:6])[H:7])([H:3])([H:4])[H:5].[H:8][O:9][O:10][H:11],100.416
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[H:4][C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17],43.5136
[C:0]([C:1](=[C:2]([H:13])[H:14])[C:3](=[C:4]([H:15])[H:16])[C:5](=[C:6]([H:17])[H:18])[C:7](=[C:8]([H:19])[H:20])[O:9][O:10][H:21])([H:11])[H:12]>>[C:0]1([H:11])([H:12])[C:1](=[C:2]([H:13])[H:14])[C:3](=[C:4]([H:15])[H:16])[C:5](=[C:6]([H:17])[H:18])[C:7](=[C:8]([H:19])[H:20])[O:9]1.[O:10][H:21],7.5312
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([C:9]([H:19])([H:20])[H:21])[c:10]1[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]1[H:26])([H:16])([H:17])[H:18]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:8]([C:7]([H:16])([H:17])[H:18])([C:9]([H:19])([H:20])[H:21])[c:10]1[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]1[H:26],59.4128
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[c:15]1([H:21])[c:16]([H:22])[c:17]([H:23])[c:18]([H:24])[c:19]([H:25])[c:20]1[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:21])[H:8])([H:6])[H:7].[c:15]1[c:16]([H:22])[c:17]([H:23])[c:18]([H:24])[c:19]([H:25])[c:20]1[H:26],150.206
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([H:9])([H:10])[H:11]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:8]([H:9])([H:10])[H:11],88.3661
[C:0](#[C:1][H:3])[H:2].[C:4](#[C:5][C:6]([C:7]([H:10])([H:11])[H:12])[H:9])[H:8]>>[C:0](=[C:1][H:3])([H:2])[C:6]([C:5]#[C:4][H:8])([C:7]([H:10])([H:11])[H:12])[H:9],41.9655
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9](=[C:10]([C:11]([H:17])([H:18])[H:19])[C:12]([H:20])([H:21])[H:22])[H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[C:10]([C:9]([C:8]([H:13])([H:14])[H:15])[H:16])([C:11]([H:17])([H:18])[H:19])[C:12]([H:20])([H:21])[H:22])([H:3])[H:4],15.3971
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18](=[C:19]([H:21])[H:22])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:12])([H:13])[H:14])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:18](=[C:19]([H:21])[H:22])[H:20])[H:8],3.9748
[C:0]1([H:9])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1([H:15])[H:16].[C:17]([H:18])([H:19])[H:20]>>[C:0]1([H:9])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1[H:16].[H:15][C:17]([H:18])([H:19])[H:20],58.2013
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[N:7]>>[C:0](=[C:1]([H:5])[H:6])([H:2])[H:3].[H:4][N:7],0.0
[C:0]([C:1]([C:2]([O:3][H:11])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[O:12][H:13]>>[C:0]([C:1]([C:2]([O:3][H:11])([H:9])[H:10])[H:8])([H:4])([H:5])[H:6].[H:7][O:12][H:13],-5.25092
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[H:9])[H:8])([H:5])([H:6])[H:7].[O:16][O:17]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[H:5][O:16][O:17],39.003248
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6])([H:17])[H:18])([O:7][O:8][H:19])[H:16])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:9])([H:17])[H:18])([O:7][O:8][H:19])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11],83.2616
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[O:6]>>[C:0]([O:1])([H:2])([H:3])[H:4].[H:5][O:6],22.19612
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:30]([H:31])([H:32])[H:33]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][C:30]([H:31])([H:32])[H:33],46.245752
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[O:15][H:16]>>[C:0]([c:1]1[c:2][c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:10][O:15][H:16],5.21209248
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13](=[C:14]([C:15]([H:26])([H:27])[H:28])[c:16]1[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]1[H:33])[H:25])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[C:14]([C:13]([C:12]([H:22])([H:23])[H:24])[H:25])([C:15]([H:26])([H:27])[H:28])[c:16]1[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]1[H:33])[H:7])([H:5])[H:6],84.7678
